US07981879B2
Step 3: N-(2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-8-methyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepin-10-yl)-N,N′,N′-trimethylethanediamide
Methyl 10-[[(dimethylamino)(oxo)acetyl](methyl)amino]-3-hydroxy-8-methyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepine-2-carboxylate prepared as described in Step 2 was dissolved in methanol and treated with 1.2 eq. of triethylamine and 1.2 eq. of 4-fluorobenzylamine. The reaction mixture was refluxed overnight, then cooled to room temperature and purified by RP HPLC (C18, 5 μM, H2O/MeCN with 1% of TFA as eluant) affording desired compound (trifluoroacetic salt) as a white solid. 1H NMR (300 MHz, CD3CN) δ 12.4 (bs, 1H), 10.01 (bs, 1H), 7.63 (dd, J=8.6 Hz, J=5.7 Hz, 2H), 7.29 (t, J=8.6 Hz, 2H), 5.53-5.30 (m, 2H), 4.82-4.68 (m, 2H), 4.25-4.13 (m, 3H), 3.95 (bs, 1H), 3.48-3.42 (m, 1H), 3.25 (s, 3H), 3.20 (s, 3H), 3.19 (s, 3H), 3.13 (s, 3H); MS (ES) C22H27FN6O5 requires 474. Found: 475 (M+H+).

reactant | Methyl 10-[[(dimethylamino)(oxo)acetyl](methyl)amino]-3-hydroxy-8-methyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepine-2-carboxylate | CN(C)C(C(=O)N(C1C=2N(CCN(C1)C)C(C(=C(N2)C(=O)OC)O)=O)C)=O | C16H23N5O6
reactant | triethylamine | 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzylamine | 1.2 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | methanol | CO | CH4O
product | N-(2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-8-methyl-4-oxo-4,6,7,8,9,10-hexahydropyrimido[1,2-d][1,4]diazepin-10-yl)-N,N′,N′-trimethylethanediamide | FC1=CC=C(CNC(=O)C=2N=C3N(CCN(CC3N(C(C(=O)N(C)C)=O)C)C)C(C2O)=O)C=C1 | C22H27FN6O5
